Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bee Pollen / ibuprofen
 
Attending: ___.
 
Chief Complaint:
shortness of breath
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o with PMHx asthma s/p intubation in ___, reported 8 
hospitalizations over past ___ years who presents with shortness 
of breath. States symptoms of mild SOB started 1 month ago when 
diagnosed with nasal polyps. Over past week, developed cough, 
sinus pressure, ear pain c/w URI which led to worsening of SOB. 
Was started on prednisone 60mg 2 days ago with no relief. Today, 
SOB worsened acutely, also noted "popping" sensation in left 
neck that occurred while coughing which then led to swelling of 
neck, face, lips. A security guard at the ___ witnessed this 
and adds that his face turned red/blue.  No new foods/meds to 
suggest specific allergy. Was taken to ___ where he 
was given an epi pen for concern of anaphylaxis, 
Combivent/albuterol nebs, solumedrol 125mg, magnesium 4gm IV 
(unclear why) and then transferred to ___ for further 
management.  
.  
In the ED, initial VS: 7 98.1 91 136/88 20 96% neb. Initially 
was satting well on room air but was noted to have diffuse 
wheezing as well as speaking in 1 sentence conversation. He was 
given albuterol nebs with improvement in resp status. CXR and 
Neck Xray were done which showed no acute process or 
pneumomediastinum on wet read. His peak flow was 230 in the ED. 
On transfer, vitals were: T 97.9 hr 90 bp 140/78 rr 19 sa 02 96% 
ra. Ate sandwhich before he was transferred.  
.  
This morning, feels better, breathing not at baseline but 
improved. Able to speak in full sentences. Does report having 
allergy to ibuprofen in the past with similar reaction, but did 
not take any ibuprofen/advil/motrin recently.   

 
Past Medical History:
Asthma s/p intubated in ___  
GSW in ___ leading to pneumothorax and splenectomy  

 
Social History:
___
Family History:
Father had "heart disease and cancer."  

 
Physical Exam:
Physical exam on Admission:
VS - 97.6 143/98 80 20 95%RA  
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - PERRL, EOMI, sclerae anicteric, MMM, OP clear, swelling 
below left eye  
NECK - Supple, no thyromegaly, no JVD, no carotid bruits, no 
crepitus noted in neck, chest, or face  
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG  
LUNGS - diffuse expiratory wheezing but moving good air 
bilaterally  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout  
.
Physical Exam on Discharge:
VS - T 97.3  BP 138/98  HR 76 RR 18 O2 99 RA  
GENERAL - Alert, interactive, well-appearing in NAD  
HEENT - PERRL, EOMI, sclerae anicteric, MMM, OP clear, swelling 
below left eye, poor dentition w/ multiple missing teeth, no gum 
tenderness, erythema/abscess/tenderness in the mouth.  
NECK - Supple, no thyromegaly, no JVD, no carotid bruits, no 
crepitus noted in neck, chest, or face  
HEART - PMI non-displaced, RRR, nl S1-S2, no MRG  
LUNGS - diffuse expiratory wheezing but moving good air 
bilaterally  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses  
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout  

 
Pertinent Results:
Labs on Discharge:
.
___ 12:52AM   WBC-16.5* RBC-4.73 HGB-15.3 HCT-42.7 MCV-90 
MCH-32.3* MCHC-35.9* RDW-13.0
___ 12:52AM   NEUTS-87* BANDS-1 LYMPHS-6* MONOS-5 EOS-0 
BASOS-0 ATYPS-1* ___ MYELOS-0
___ 12:52AM   GLUCOSE-104* UREA N-16 CREAT-0.8 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-24 ANION GAP-15
___ 07:25AM   CALCIUM-9.7 PHOSPHATE-2.1* MAGNESIUM-1.8
___ 12:52AM   D-DIMER-788*
.
Imaging
Chest x-ray:
Linear opacity in the left lower lobe, likely atelectasis, 
though pneumonia is possible in the appropriate clinical 
circumstance. 
.
Neck x-ray:
There is suggestion of diffuse prevertebral soft tissue swelling 
in the upper cervical spine. The upper tracheal air column is 
not well visualized. On the frontal projection, no airway 
lucency is identified above the level of the glottis. The 
epiglottis is not distinctly visualized on the lateral view.  
The subglottic airway is within normal limits. Findings are 
concerning for upper airway compromise and neck CT is 
recommended for further characterization.
.
CT neck with contrast:
1. Mild narrowing of the glottic region, likely due to adduction 
of the vocal cords, or less likely mild edema. No supraglottic 
dilation to suggest airway obstruction.  
2. Pansinus opacification, as described above, indicating 
chronic sinus disease. No acute cervical spine fracture. 
.
Labs on Discharge:
none
 
Brief Hospital Course:
___ y/o male with PMHx of asthma s/p intubation in ___ who p/w 
SOB c/w asthma flare and allergic reaction.  
.  
# Shortness of breath: Symptoms were secondary to asthma 
exacerbation as well as an allergic reaction/angioedema.  No 
clear exposure history although reportedly did have swelling of 
face and lips and does have some swelling under left eye. 
Patient has history of similar reaction to ibuprofen, but he 
does not recall taking anything similar.  Patient was treated 
with epipen at OSH and responded well. On neck x-ray, there was 
some concern for soft tissue swelling, but CT neck with contrast 
ruled this out.  Given some wheezing on exam and improvement 
with nebs, also component of asthma exacerbation.  Patient was 
started on prednisone and treated with albuterol and ipratropium 
nebs.  He will complete as prednisone taper on discharge.  
Patient reported some symptoms slightly suspicious for pleuritic 
chest pain. D dimer was elevated at 788, but patient was not 
tachycardic. This pain improved with prednisone and nebs, and 
his oxygen saturation levels improved; thus, suspicion for 
pulmonary embolism was very low and CTA was deferred.  
On discharge, patient will complete the prednisone taper and 
continue asthma medications.
.  
# GERD: Continued home prilosec. 
.  
TRANSITIONS OF CARE:
-full code
-should f/u with scheduled ENT appointment at ___ for 
evaluation of known polyps
-will complete prednisone taper (see discharge meds)
-Recommend outpatient Pulmonary follow-up
 
Medications on Admission:
Prilosec 10mg daily  
Singulair 10mg  
Claritin 10mg  
CTM?  
Advair 250/50 BID  
Combivent 1puff BID  
albuterol prn  
Vitamin D  
"ear drops" for supposed ear infection  
Flonase nasal  

 
Discharge Medications:
1. Prilosec 10 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
2. montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Claritin 10 mg Tablet Sig: One (1) Tablet PO once a day.  
4. Advair Diskus 250-50 mcg/dose Disk with Device Sig: One (1)  
Inhalation twice a day.  
5. Combivent ___ mcg/actuation Aerosol Sig: One (1)  
Inhalation twice a day.  
6. albuterol sulfate 90 mcg/actuation HFA Aerosol Inhaler Sig: 
One (1)  Inhalation every ___ hours as needed for shortness of 
breath or wheezing.  
7. Vitamin D  Oral
8. Flonase 50 mcg/actuation Spray, Suspension Sig: One (1)  
Nasal once a day.  
9. prednisone 10 mg Tablet Sig: as per below Tablet PO once a 
day for 6 days: Prednisone taper:
-40mg for 2 days
-30mg for 2 days
-20mg for 2 days
-10mg for 2 days, then stop.  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
Primary:
Allergic reaction
Asthma exacerbation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital with difficulty breathing 
secondary to asthma exacerbation as well as an allergic 
reaction.  You were treated with epinephrine for the allergic 
reaction.  There was some concern initially for swelling in your 
throat, but a CAT scan showed that you did NOT have this, which 
was reassuring.  It is unclear what your allergy was to, but 
since you had similar symptoms in the past from taking 
ibuprofen, you should avoid ibuprofen containing medices such as 
motrin and advil.
.
For the asthma, we treated you with prednisone and nebulizers.  
You responded well and did not require any oxygen.  On 
discharge, you should complete a prednisone taper (slowly 
decrease the dose) as per instructions below.  
.
We have made the following changes to your medications:
Prednisone taper:
-40mg for 2 days
-30mg for 2 days
-20mg for 2 days
-10mg for 2 days, then stop
On discharge, you will be seen by the physician at your 
facility.  We also think it is very important for you to see the 
ENT doctor about your polyps.
.
It was a pleasure taking care of you, we wish you all the best.

 
Followup Instructions:
___